US06608072B1
f) 2-(4-Fluorophenyl)-1-(2-(1-(S)-phenylethyl)amino-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine
2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine (106 mg, 0.2 mmol) is dissolved in CH2Cl2/HOAc 1:1 (10 ml), combined with mCPBA (113 mg 70%, 0.24 mmol) and stirred for 15 min. The reaction mixture is poured on water and extracted with CH2Cl2 three times. The combined organic phases are dried over Na2SO4. filtered and evaporated to dryness to yield the crude sulfoxide (100 mg), which is dissolved in 1-(S)-phenylethylamine (0.2 ml) and heated to 120° C. for 1 h. Purification over SiO2 (acetone/hexanes 1:1) yielded the title compound as colorless foam (45 mg 35%)

reactant | 2-(4-Fluorophenyl)-1-(2-methylthio-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine | 0.2 mmol, 106 mg | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)N2CCN(CC2)C(=O)OC(C)(C)C)N1)C1=NC(=NC=C1)SC | C26H28FN7O2S
reactant | mCPBA | 0.24 mmol, 113 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-(S)-phenylethylamine | 0.2 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | CH2Cl2 HOAc | 10 ml | C(Cl)Cl.CC(=O)O
product | 2-(4-Fluorophenyl)-1-(2-(1-(S)-phenylethyl)amino-4-pyrimidinyl)-5-(4-tert.butoxycarbonyl-1-piperazinyl)imidazo[4,5-b]pyridine | 45 mg, 35% | FC1=CC=C(C=C1)C=1N(C=2C(=NC(=CC2)N2CCN(CC2)C(=O)OC(C)(C)C)N1)C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1 | C33H35FN8O2
